US05677470
Under argon atmosphere, a solution of 955 mg of methyl (2S,3R)-3-(2,4-difluorophenyl)-2,3-dihydroxypropionate dissolved in 30 ml of dichloromethane was cooled to 0° C., and to the solution was added 940 mg of p-toluenesulfonyl chloride and 624 mg of triethylamine. After the mixture was stirred at 0° C. for 3 days, the reaction mixture was washed with water and dried, and the solvent was removed. The residue was purified by silica gel column chromatography (solvent; hexane:ethyl acetate=2:1) to obtain 1.15 g of methyl (2S,3R)-3-(2,4-difluorophenyl)-3-hydroxy-2-(p-toluenesulfonyloxy)propionate.

reactant | methyl (2S,3R)-3-(2,4-difluorophenyl)-2,3-dihydroxypropionate | 955 mg | FC1=C(C=CC(=C1)F)[C@H]([C@@H](C(=O)OC)O)O | C10H10F2O4
reactant | p-toluenesulfonyl chloride | 940 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 624 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | methyl (2S,3R)-3-(2,4-difluorophenyl)-3-hydroxy-2-(p-toluenesulfonyloxy)propionate | 1.15 g | FC1=C(C=CC(=C1)F)[C@H]([C@@H](C(=O)OC)OS(=O)(=O)C1=CC=C(C=C1)C)O | C17H16F2O6S
